US06670494B1
The copper hydroxide precipitate was then placed into a beaker provided with a reflux condenser and 15 grams (0.2 Mole) of glycine was added. 100 ml of ethanol was thereafter added and the mixture stirred and boiled at atmospheric pressure for 5 hours. The reaction mixture was then cooled and filtered yielding 21.2 grams of copper glycinate in the form of a fine blue powder.

reactant | copper hydroxide | [OH-].[Cu+2].[OH-]
reactant | glycine | 0.2 Mole, 15 grams | NCC(=O)O | C2H5NO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | copper glycinate | 21.2 grams | NCC(=O)[O-].[Cu+2].NCC(=O)[O-] | InChI=1S/2C2H5NO2.Cu/c2*3-1-2(4)5;/h2*1,3H2,(H,4,5);/q;;+2/p-2
